US08350044B2
Preparation of methyl-(4-methyl-2-pyridin-3-yl-thiazol-5-yl)-amine
To a 10 mL microwave vessel containing DCE (5 mL) was added N-(1-methylcarbamoyl-ethyl)nicotinamide (207 mg, 1.0 mmol) followed by Lawesson's reagent (2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane 2,4-disulfide, 404 mg, 1.0 mmol) in one portion. The heterogeneous mixture was heated in a microwave for 5 min at 130° C. The reaction mixture was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate (NaHCO3). The layers were separated and the organic layer was washed once with brine. The solution was dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by silica gel column chromatography (ethyl acetate) to give the desired product as an orange solid (141 mg, 68%): mp 84-87° C.; 1H NMR (300 MHz, CDCl3) δ 8.98 (d, J=1.7 Hz, 1H), 8.51 (dd, J=4.9, 1.7 Hz, 1H), 8.08 (dt, J=8.0, 1.7 Hz, 1H), 7.29 (m, 1H), 3.00 (s, 3H), 2.30 (s, 3H); ESIMS m/z 206.4 (M+1), m/z 204.2 (M-1).

reactant | N-(1-methylcarbamoyl-ethyl)nicotinamide | 1.0 mmol, 207 mg | CNC(=O)C(C)NC(C1=CN=CC=C1)=O | C10H13N3O2
reactant | Lawesson's reagent | 1.0 mmol, 404 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | methyl-(4-methyl-2-pyridin-3-yl-thiazol-5-yl)-amine | 141 mg, 68% | CNC1=C(N=C(S1)C=1C=NC=CC1)C | C10H11N3S
